US07897767B2
Anhydrous hydrazine (0.91 mL, 29 mmol) was added to a stirred suspension of N-[4-(8-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl)butyl]-2-methylpropanamide (4.90 g, 9.71 mmol) in ethanol (100 mL). Dichloromethane (50 mL) was added. After four hours, acetone (50 mL) was added and the reaction mixture was stirred overnight. A solid was removed by filtration and washed with methanol. The filtrate was concentrated to provide a solid that was triturated with 1:1 saturated aqueous sodium bicarbonate/water. The solid was isolated by filtration, washed with water, and dissolved in chloroform (300 mL). The solution was washed with water (2×50 mL), dried over sodium sulfate, filtered, concentrated under reduced pressure, and dried under vacuum to afford N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}-2-methylpropanamide that was used in the next experiment.

reactant | hydrazine | 29 mmol, 0.91 mL | NN | H4N2
reactant | N-[4-(8-{[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)oxy]methyl}-5,6-dimethyl-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl)butyl]-2-methylpropanamide | 9.71 mmol, 4.90 g | O=C1N(C(C2=CC=CC=C12)=O)OCC=1N(C2=C(C=3N(C(=C2C)C)N=NN3)N1)CCCCNC(C(C)C)=O | C25H28N8O4
reactant | Dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | acetone | 50 mL | CC(=O)C | C3H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}-2-methylpropanamide | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCCNC(C(C)C)=O)CON=C(C)C)C | C20H30N8O2
